US05958910
0.47 g of N-{4-[4-(3-nitro-phenyl)-thiazol-2-ylsulphamoyl]-phenyl}-acetamide was suspended in 10 ml of 6N hydrochloric acid and heated to boiling overnight. The cooled mixture was treated with 35 ml of 2N sodium hydroxide solution. After the addition of 0.4 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. The product separated upon neutralization with concentrated hydrochloric acid. Recrystallization from 50 ml of 40% ethanol yielded 0.16 g of 4-amino-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide as yellowish crystals.

reactant | N-{4-[4-(3-nitro-phenyl)-thiazol-2-ylsulphamoyl]-phenyl}-acetamide | 0.47 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C17H14N4O5S2
reactant | sodium hydroxide | 2N, 35 ml | [OH-].[Na+]
reactant | charcoal | 0.4 g | C | CH4
solvent | hydrochloric acid | 6N, 10 ml | Cl | ClH
product | 4-amino-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide | 0.16 g | NC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C15H12N4O4S2
